US05849911
1a) 4-(Thiazol-5-yl)-benzaldehyde
In a bomb tube, a mixture of 3.7 g (20 mmol) of 4-bromobenzaldehyde (Fluka, Buchs, Switzerland), 6.64 ml (93 mmol) of thiazole, 2.94 g of potassium acetate and 1.16 g (1 mmol) of Pd(PPh3)4 in 50 ml of dimethylacetamide is stirred at 150° C. for 12 hours. The reaction mixture is concentrated by evaporation. Water is added to the residue and the mixture is extracted 3× with methylene chloride. The organic phases are filtered through cotton wadding, concentrated by evaporation and chromatographed (SiO2 ; hexane/ethyl acetate 1:2), yielding the title compound: HPLC20-100 : tRet =11.4; 1H-NMR (CD3 OD) δ 9.98 (s, HCO), 9.03 (s, H(2)thiazole), 8.32 (s, H(4)thiazole), 7.95 and 7.85 (2d, J=8, each 2H; additionally also signals of the hydrate (≈12%): 8.92 (s, H(2)thiazole), 8.15 (s, H(4)thiazole)7.62 and 7.53 (2d, J=8, each 2H), 5.54 (s, HC(OH)2).

reactant | 4-bromobenzaldehyde | 20 mmol, 3.7 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | thiazole | 93 mmol, 6.64 ml | S1C=NC=C1 | C3H3NS
reactant | potassium acetate | 2.94 g | C(C)(=O)[O-].[K+]
solvent | dimethylacetamide | 50 ml | CC(=O)N(C)C | C4H9NO
catalyst | Pd(PPh3)4 | 1 mmol, 1.16 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(Thiazol-5-yl)-benzaldehyde | S1C=NC=C1C1=CC=C(C=O)C=C1 | C10H7NOS
